2113-01-02 09:09:00 Physician Attending Progress Note
Chief Complaint: 63 yo man with DM II, CRI (baseline Cr 1.4),
   schizoaffective disorder, chronic hyperkalemia thought due to beta
   blocker use, remote PE on coumadin, clinical diagnosis of COPD but no
   PFTs and imaging without evidence of emphysema, and L hemidiaphragm
   elevation.  Admitted with presyncope and [**2113**], found to be
   lethargic on the floor with ABG 7.19/90/99.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2113-1-1**] 09:00 PM
 NON-INVASIVE VENTILATION - STOP [**2113-1-1**] 11:10 PM
   7.29/69/67 on room air off BiPAP, but then became hypoxemic with noted
   hypoventilation.
   BiPAP restarted on [**10-10**]/0.21, more alert, placed on 1L NC overnight
   from 1 to 4:30 AM.  Became more lethargic again, 7.26/75/60 on repeat
   ABG so placed back on BiPAP. Desaturation to los 90s, increased FiO2 to
   0.25 with repeat PaO2 0.75.
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-1-2**] 09:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36
C (96.8
   HR: 78 (73 - 85) bpm
   BP: 107/72(80) {92/53(63) - 118/74(84)} mmHg
   RR: 25 (19 - 28) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 76 Inch
             Total In:
             200 mL
   PO:
             TF:
   IVF:
   200 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                     65 mL
   Urine:
   65 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    135 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 240 (240 - 240) mL
   PS : 10 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 25%
   SpO2: 93%
   ABG: 7.26/73.[**Numeric Identifier 218**]/78.[**Numeric Identifier 181**]/32/2
   Ve: 6.2 L/min
   PaO2 / FiO2: 316
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), median sternotomy scar
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, ulceration L shin
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.0 g/dL
   163 K/uL
   80 mg/dL
   2.5 mg/dL
   32 mEq/L
   4.7 mEq/L
   49 mg/dL
   104 mEq/L
   142 mEq/L
   37.7 %
   5.4 K/uL
        [image002.jpg]
                            [**2113-1-1**]  09:47 PM
                            [**2113-1-2**]  04:08 AM
                            [**2113-1-2**]  04:45 AM
                            [**2113-1-2**]  05:01 AM
                            [**2113-1-2**]  05:44 AM
                            [**2113-1-2**]  06:05 AM
                            [**2113-1-2**]  07:30 AM
   WBC
   5.4
   Hct
   37.7
   Plt
   163
   Cr
   2.5
   TCO2
   35
   35
   36
   35
   34
   Glucose
   81
   80
   Other labs: PT / PTT / INR:36.3/38.9/3.7, Lactic Acid:1.0 mmol/L,
   Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:5.8 mg/dL
   Imaging: CT chest from [**5-14**] without evidence of emphysema but L
   hemidiaphragm elevation.
   Assessment and Plan
 Hypercarbic respiratory failure of unclear etiology.  No clear
   evidence of obstructive lung disease on imaging, but wheezing this PM
   on rounds and has nebulizer at home for bronchodilators.  Acute
   hypercarbia due to ?intracranial bleed ?oversedation from medications
   in setting of acute renal failure
   -check CT head wo contrast
   -check urine toxicology screen
   -continue BiPAP as needed for lethargy or pH<7.25
   -check to see if recent psychiatry medications have been changed
   contributing to his somnolence
   -renally dose his medications
Acute renal failure: FeNa 0.8%, would continue with gentle IV
   hydration with normal saline given hyperkalemia
presyncope: patient describes legs feeling weak without any loss of
   consciousness
history of PE: coumadin on hold due to supratherapeutic INR
chronic lower extremity venous stasis changes-appears to be at
   baseline
Brother [**Name (NI) 160**] is HCP.
   ICU [**Name2 (NI) 81**]
   Nutrition:
   Glycemic Control:  RISS
   Lines: peripheral
   20 Gauge - [**2113-1-1**] 08:48 PM
   Prophylaxis:
   DVT: on coumadin
   Stress ulcer: ranitidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Will stay in unit overnight with unstable sat
s and new
   onset wheezing
   Total time spent: 45

2113-01-03 07:16:00 Physician Attending Progress Note
Chief Complaint: 63 yo man with DM II, CRI (baseline Cr 1.4),
   schizoaffective disorder, chronic hyperkalemia thought due to beta
   blocker use, remote PE on coumadin, clinical diagnosis of COPD but no
   PFTs and imaging without evidence of emphysema, and L hemidiaphragm
   elevation.  Admitted with presyncope and [**2113**], found to be
   lethargic on the floor with ABG 7.19/90/99.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 CT head without acute stroke or bleed although with evidence of L
   maxillary sinusitis
 Urine tox screen negative
Placed on BiPAP overnight for presumed sleep apnea (clinical
   diagnosis)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Ipratropium
   Fluticasone
   Divalproex
   Respiridone
   Hydroxychloroquine
   Ranitidine
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-1-3**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.1
C (98.7
   HR: 93 (79 - 100) bpm
   BP: 112/51(65) {103/44(60) - 141/78(89)} mmHg
   RR: 31 (19 - 38) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 76 Inch
                  Total In:
                                                                    700 mL
                                                                    100 mL
   PO:
                                                                    500 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    200 mL
   Blood products:
   Total out:
                                                                  1,575 mL
                                                                  1,060 mL
   Urine:
                                                                  1,575 mL
                                                                  1,060 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -875 mL
                                                                   -960 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 489 (450 - 513) mL
   PS : 10 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 35%
   PIP: 16 cmH2O
   SpO2: 94%
   ABG: 7.26/73.[**Numeric Identifier 218**]/78.[**Numeric Identifier 181**]/31/2
   Ve: 4.6 L/min
   PaO2 / FiO2: 226
   Physical Examination
   Alert and Oriented x3
   Decreased BS at bases
   RRR
   +BS.  Distended, soft
   1+ bilateral LE edema with chronic venous stasis changes, no open areas
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.2 g/dL
   240 K/uL
   99 mg/dL
   1.9 mg/dL
   31 mEq/L
   5.2 mEq/L
   43 mg/dL
   105 mEq/L
   141 mEq/L
   34.7 %
   5.4 K/uL
        [image002.jpg]
                            [**2113-1-1**]  09:47 PM
                            [**2113-1-2**]  04:08 AM
                            [**2113-1-2**]  04:45 AM
                            [**2113-1-2**]  05:01 AM
                            [**2113-1-2**]  05:44 AM
                            [**2113-1-2**]  06:05 AM
                            [**2113-1-2**]  07:30 AM
                            [**2113-1-3**]  04:30 AM
   WBC
   5.4
   5.4
   Hct
   37.7
   34.7
   Plt
   163
   240
   Cr
   2.5
   1.9
   TCO2
   35
   35
   36
   35
   34
   Glucose
   81
   80
   99
   Other labs: PT / PTT / INR:22.2/33.6/2.1, ALT / AST:14/12, Alk Phos / T
   Bili:62/0.1, Differential-Neuts:65.1 %, Lymph:22.0 %, Mono:10.0 %,
   Eos:2.3 %, Lactic Acid:1.0 mmol/L, LDH:233 IU/L, Ca++:9.1 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
 Hypercarbic respiratory failure
   -unclear etiology as head CT and urine tox screen negative and his
   outpatient psychiatric medications are not renally cleared
   -now doing well, placed on BiPAP overnight for presumed sleep apnea
   -continue to avoid sedating agents
   -may have component of obesity hypoventilation, has OSA by history so
   would ask sleep consult to see patient and continue nighttime BiPAP for
   now
acute renal failure likely pre-renal in etiology
   -Cr improving from 2.9 on admission to 1.9 today, lasix on hold
History of PE on coumadin
   -restarted coumadin today given INR 2.1 today
Schizoaffective disorder
   -continue home regimen
   ICU Care
   Nutrition: diet as per nutrition
   Glycemic Control:  RISS
   Lines:
   20 Gauge - [**2113-1-1**] 08:48 PM
   Prophylaxis:
   DVT: on coumadin
   Stress ulcer: continue ranitidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU to monitor persistent hypercarbia/confusion. Sleep
   Study tonight
   Total time spent: 45 min

2113-01-03 07:57:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2113-1-2**] 11:00 PM
   -- Mental status cleared in the morning with Bipap and did not require
   Respiratory support for the rest of the day
   -- CT head - No bleed, Mucosal thickening of the left maxillary and
   ethmoid sinuses with an air-fluid level in the left maxillary sinus.
   -- TSH, Utox, LFTs normal
   -- Reordered Bipap with 10/5 with 35% overnight empirically and did
   well overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-1-3**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.1
C (98.7
   HR: 93 (79 - 100) bpm
   BP: 112/51(65) {103/44(60) - 141/78(89)} mmHg
   RR: 31 (19 - 38) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 76 Inch
                  Total In:
                                                                    700 mL
                                                                    100 mL
   PO:
                                                                    500 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    200 mL
   Blood products:
   Total out:
                                                                  1,575 mL
                                                                  1,060 mL
   Urine:
                                                                  1,575 mL
                                                                  1,060 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -875 mL
                                                                   -960 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 489 (450 - 513) mL
   PS : 10 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 35%
   PIP: 16 cmH2O
   SpO2: 94%
   ABG: ///31/
   Ve: 4.6 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   240 K/uL
   10.2 g/dL
   99 mg/dL
   1.9 mg/dL
   31 mEq/L
   5.2 mEq/L
   43 mg/dL
   105 mEq/L
   141 mEq/L
   34.7 %
   5.4 K/uL
         [image002.jpg]
                            [**2113-1-1**]  09:47 PM
                            [**2113-1-2**]  04:08 AM
                            [**2113-1-2**]  04:45 AM
                            [**2113-1-2**]  05:01 AM
                            [**2113-1-2**]  05:44 AM
                            [**2113-1-2**]  06:05 AM
                            [**2113-1-2**]  07:30 AM
                            [**2113-1-3**]  04:30 AM
   WBC
   5.4
   5.4
   Hct
   37.7
   34.7
   Plt
   163
   240
   Cr
   2.5
   1.9
   TCO2
   35
   35
   36
   35
   34
   Glucose
   81
   80
   99
   Other labs: PT / PTT / INR:22.2/33.6/2.1, ALT / AST:14/12, Alk Phos / T
   Bili:62/0.1, Differential-Neuts:65.1 %, Lymph:22.0 %, Mono:10.0 %,
   Eos:2.3 %, Lactic Acid:1.0 mmol/L, LDH:233 IU/L, Ca++:9.1 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.4 mg/dL
   Imaging: Head CT: 1. Mucosal thickening of the left maxillary and
   ethmoid sinuses with an
   air-fluid level in the left maxillary sinus.
   2. No acute bleed or masses present.
   Assessment and Plan
   63 yo man with DM II, CRI (baseline Cr 1.4), schizoaffective disorder,
   chronic hyperkalemia thought due to beta blocker, remote PE on
   coumadin, clinical diagnosis of COPD but no PFTs and imaging without
   evidence of emphysema, and L hemidiaphragm elevation admitted for
   presyncope and transferred to MICU for lethary and ABG 7.19/90/99.
   # Hypercarbic respiratory failure:  Likely has some obstructive lung
   disease despite relatively unremarkable imaging.  Does have chronic
   respiratory acidosis and responds to nebulizers.  Etiology of acute
   worsening unclear.  Unlikely related to pscyhotrophic medications as
   these are hepatically cleared per pharm.  Neg head CT and tox screen.
   - continue fluticasone, albuterol, Ipratropium
   - BiPAP overnight and as needed for acidemia
   - will need formal sleep study and PFTs as outpatient
   # Acute on chronic renal failure: followed by Dr. [**Last Name (STitle) 1458**] here at
   [**Hospital1 19**] in evaluation of CRI w/ baseline creatinine of 1.5.  The etiology
   of his chronic kidney disease is felt to be multifactorial, including
   lithium toxicity, renal hypperfusion from CHF, NSAIDs in setting of RA,
   PVD with RAS, diabetic/ hypertensive nephropathy.  FeNa < 1%.
   Improving with IVFs.
   - encourage oral fluid intake
   - renally dose meds
   - continue to trend creatinine
   - hold lasix for now
   # H/o PE: Remote history.
   - can restart warfain given INR 2.1
   # LE ulceration: concering for manifestations of PAD.  [**Month (only) 51**] benefit from
   ABIs as outpatient.  Wound care nurse following.
   - appreciate wound care reccs
   # Pre-Syncope and Fall:  Unclear etiology.  No focal neurologic
   deficits on exam.  No fractures on pelvic xray.
   - PT eval
   # Schizophrenia: continue risperidone, oxcarbamazapine, divalproex
   # DM: No oral hypoglyemics at baseline. Hemoglobin A1c of 6.1 in
   [**11-14**].  ISS while in house. Cont ASA 81mg daily.
   # BPH: cont flomax
   # Glaucoma: cont home gtts
   # RA: Appears from last rheumatology note more consistent with burnt
   out disease.  Cont home Hydroxychloroquine
   # Enlarged Thyroid on Prior CT: Normal TSH, outpatinet f/u w/
   recommended u/s.
   # FEN: IVFs / replete lytes prn / regular diet
   # PPX: ranitidine, warfarin, bowel regimen
   # ACCESS: PIV
   # CODE:  Full Code
   # CONTACT: [**First Name4 (NamePattern1) 160**] [**Known lastname 1872**] [**Telephone/Fax (1) 12380**]
   ICU Care
   Nutrition: diabetic diet
   Glycemic Control:  ISS
   Lines:
   20 Gauge - [**2113-1-1**] 08:48 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2113-01-04 07:37:00 Physician Attending Progress Note
Chief Complaint: 63 yo man with DM II, CRI (baseline Cr 1.4),
   schizoaffective disorder, chronic hyperkalemia thought due to beta
   blocker use, remote PE on coumadin, clinical diagnosis of COPD but no
   PFTs and imaging without evidence of emphysema, and L hemidiaphragm
   elevation. Admitted with presyncope and [**2113**], found to be
   lethargic on the floor with ABG 7.19/90/99
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -ABG 7.23/89/90 on full face mask BiPAP.  7.27/78/81 on nasal BiPAP but
   patient did not tolerate it.
   -BiPAP trial while patient somnolent- after BiPAP x 1 hour ABG 7.23 /
   89 / 90.  Switched to nasal CPAP x 10-15 minutes ABG 7.27 / 78 / 51.
   -sleep study w/ auto-set CPAP- ABG while on CPAP 7.29/76/66
   -a.m. K 6.0, EKG w/o changes related to hyperkalemia.  30g kayexalate
   ordered.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2113-1-3**] 08:30 AM
   Other medications:
   ASA 81mg daily
   Calcium carbonate
   Flovent 110 2 puffs [**Hospital1 7**]
   Hydroxychloroquine 200mg [**Hospital1 7**]
   Respiridone 3mg bedtime
   Divalproate 500mg [**Hospital1 7**]
   Atrovent/albuterol
   Ranitidine 150mg daily
   Coumadin 5mg daily
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-1-4**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 95 (89 - 104) bpm
   BP: 149/68(88) {116/54(70) - 166/82(98)} mmHg
   RR: 31 (20 - 38) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 76 Inch
                  Total In:
                                                                  1,430 mL
                                                                    360 mL
   PO:
                                                                  1,430 mL
                                                                    360 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  3,080 mL
                                                                  1,290 mL
   Urine:
                                                                  3,080 mL
                                                                  1,290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,650 mL
                                                                   -930 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 145 (145 - 145) mL
   PS : 10 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 25%
   PIP: 16 cmH2O
   SpO2: 94%
   ABG: 7.29/76.[**Numeric Identifier 126**]/66/30/6
   Ve: 5.8 L/min
   PaO2 / FiO2: 264
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (PMI Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: Intermittent expiratory wheezes posteriorly
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: chronic venous stasis changes, trace bilaterally lower
   extremity edema
   Skin:  Not assessed
   Neurologic: Alert and oriented.  Answering questions appropriate.
   Labs / Radiology
   10.5 g/dL
   229 K/uL
   102 mg/dL
   1.5 mg/dL
   30 mEq/L
   6.0 mEq/L
   39 mg/dL
   107 mEq/L
   142 mEq/L
   36.3 %
   5.1 K/uL
        [image002.jpg]
                            [**2113-1-2**]  04:45 AM
                            [**2113-1-2**]  05:01 AM
                            [**2113-1-2**]  05:44 AM
                            [**2113-1-2**]  06:05 AM
                            [**2113-1-2**]  07:30 AM
                            [**2113-1-3**]  04:30 AM
                            [**2113-1-3**]  03:40 PM
                            [**2113-1-3**]  04:42 PM
                            [**2113-1-4**]  04:07 AM
                            [**2113-1-4**]  05:47 AM
   WBC
   5.4
   5.1
   Hct
   34.7
   36.3
   Plt
   240
   229
   Cr
   2.5
   1.9
   1.5
   TCO2
   35
   36
   35
   34
   39
   37
   38
   Glucose
   81
   80
   99
   102
   Other labs: PT / PTT / INR:17.1/33.6/1.5, ALT / AST:14/12, Alk Phos / T
   Bili:62/0.1, Differential-Neuts:65.1 %, Lymph:22.0 %, Mono:10.0 %,
   Eos:2.3 %, Lactic Acid:1.0 mmol/L, LDH:233 IU/L, Ca++:9.1 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
 Hypercarbic respiratory failure due to likely combination of L
   hemidiaphragm dysfunction, obstructive sleep apnea, and central
   hypoventilation
   -although he carries a diagnosis of COPD no evidence of emphysema on
   chest imaging.  Given intermittent wheezing on exam he would benefit
   from PFTs at some point.  Change fluticasone to advair 250/50 1 puff
   [**Hospital1 7**] for persistent wheezing
   - head CT and urine tox screen negative and his outpatient psychiatric
   medications are not renally cleared
   -now doing well, sleep study last night will need to followup optimal
   CPAP based on yesterday
s study
   -continue to avoid sedating agents
   -sleep consult following
acute renal failure likely pre-renal in etiology
   -Cr improving from 2.9 on admission to 1.9 to 1.5 today
History of PE on coumadin
   -on coumadin for goal INR [**2-9**]
Schizoaffective disorder
   -continue home regimen, none of which are renally cleared
Episodic hyperkalemia
   -low potassium diet, has had prior evaluations for hyperkalemia
   ICU Care
   Nutrition: regular diet
   Glycemic Control:  RISS
   Lines:
   20 Gauge - [**2113-1-1**] 08:48 PM
   Prophylaxis:
   DVT: on coumadin
   Stress ulcer: ranitidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : OK to go to floor.  Will need CPAP based on sleep study
   results at night.
   Total time spent: 30 min

2113-01-04 07:46:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 63 yo man with DM II, CRI (baseline Cr 1.4),
   schizoaffective disorder, chronic hyperkalemia thought due to beta
   blocker, remote PE on coumadin, clinical diagnosis of COPD but no PFTs
   and imaging without evidence of emphysema, and L hemidiaphragm
   elevation admitted for presyncope and transferred to MICU for lethary
   and ABG 7.19/90/99.
   24 Hour Events:
 NON-INVASIVE VENTILATION - STOP [**2113-1-3**] 08:00 PM
 EKG - At [**2113-1-4**] 05:37 AM
   [**2113-1-3**]
   -BiPAP trial while patient somnolent- after BiPAP x 1 hour ABG 7.23 /
   89 / 90.  Switched to nasal CPAP x 10-15 minutes ABG 7.27 / 78 / 51.
   -sleep study w/ auto-set CPAP- ABG while on CPAP
   -a.m. K 6.0, EKG w/o changes related to hyperkalemia.  30g kayexalate
   ordered.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2113-1-3**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-1-4**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 95 (89 - 104) bpm
   BP: 149/68(88) {116/54(70) - 166/82(98)} mmHg
   RR: 31 (20 - 38) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 76 Inch
                  Total In:
                                                                  1,430 mL
                                                                    360 mL
   PO:
                                                                  1,430 mL
                                                                    360 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  3,080 mL
                                                                  1,290 mL
   Urine:
                                                                  3,080 mL
                                                                  1,290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,650 mL
                                                                   -930 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 145 (145 - 145) mL
   PS : 10 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 25%
   PIP: 16 cmH2O
   SpO2: 94%
   ABG: 7.29/76.[**Numeric Identifier 126**]/66/30/6
   Ve: 5.8 L/min
   PaO2 / FiO2: 264
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   229 K/uL
   10.5 g/dL
   102 mg/dL
   1.5 mg/dL
   30 mEq/L
   6.0 mEq/L
   39 mg/dL
   107 mEq/L
   142 mEq/L
   36.3 %
   5.1 K/uL
        [image002.jpg]
                            [**2113-1-2**]  04:45 AM
                            [**2113-1-2**]  05:01 AM
                            [**2113-1-2**]  05:44 AM
                            [**2113-1-2**]  06:05 AM
                            [**2113-1-2**]  07:30 AM
                            [**2113-1-3**]  04:30 AM
                            [**2113-1-3**]  03:40 PM
                            [**2113-1-3**]  04:42 PM
                            [**2113-1-4**]  04:07 AM
                            [**2113-1-4**]  05:47 AM
   WBC
   5.4
   5.1
   Hct
   34.7
   36.3
   Plt
   240
   229
   Cr
   2.5
   1.9
   1.5
   TCO2
   35
   36
   35
   34
   39
   37
   38
   Glucose
   81
   80
   99
   102
   Other labs: PT / PTT / INR:17.1/33.6/1.5, ALT / AST:14/12, Alk Phos / T
   Bili:62/0.1, Differential-Neuts:65.1 %, Lymph:22.0 %, Mono:10.0 %,
   Eos:2.3 %, Lactic Acid:1.0 mmol/L, LDH:233 IU/L, Ca++:9.1 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.4 mg/dL
   Imaging: None
   Assessment and Plan
   63 yo man with DM II, CRI (baseline Cr 1.4), schizoaffective disorder,
   chronic hyperkalemia thought due to beta blocker, remote PE on
   coumadin, clinical diagnosis of COPD but no PFTs and imaging without
   evidence of emphysema, and L hemidiaphragm elevation admitted for
   presyncope and transferred to MICU for lethary and ABG 7.19/90/99.
   # Hypercarbic respiratory failure:  likely related to a h/o sleep apnea
   +/- obstructive lung disease.  Minimal emphysema on CT scan, but exam
   consistent with COPD given wheezing, pursed lip breathing, quiet breath
   sounds. Had some worsening last night with ABG showing acute on chronic
   respiratory acidosis in the setting of somnolence.  Status post sleep
   study. Patient did best with CPAP
   - Continue CPAP
   - continue albuterol, Ipratropium
   - Start advair and stop fluticasone
   - will need formal sleep study and PFTs as outpatient
   - outpatient sleep study
   - consider further evaluation of psychotropic meds and possible
   sedating effect
   # Acute on chronic renal failure: followed by Dr. [**Last Name (STitle) 1458**] here at
   [**Hospital1 19**]. Cr back to baseline today at 1.5 after volume resuscitation.
   - check BNP as unsure what rationale for lasix is
   -trend Cr
   -cont to hold lasix until cr improves to baseline
   # Hyperkalemia: Received polysterene x1. No Changes on tele c/w
   hyperkalemia.
   - Recheck in lytes PM
   - low K diet
   - screening am cortisol today
   # H/o PE: Remote history.
   - start heparin for inr 1.5
   - continue warfain
   # LE ulceration: concering for manifestations of PAD.  [**Month (only) 51**] benefit from
   ABIs as outpatient.  Wound care nurse following.
   - appreciate wound care recs
   # Pre-Syncope and Fall:  Unclear etiology.  No focal neurologic
   deficits on exam.  No fractures on pelvic xray.
   - PT eval
   # Schizophrenia:
   - continue risperidone, oxcarbamazapine, divalproex
   # DM: No oral hypoglyemics at baseline. Hemoglobin A1c of 6.1 in
   [**11-14**].  ISS while in house. Cont ASA 81mg daily.
   # BPH: cont flomax
   # Glaucoma: cont home gtts
   # RA: Appears from last rheumatology note more consistent with burnt
   out disease.  Cont home Hydroxychloroquine
   # Enlarged Thyroid on Prior CT: Normal TSH, outpatinet f/u w/
   recommended u/s.
   # FEN: IVFs / replete lytes prn / regular diet
   # PPX: ranitidine, warfarin, bowel regimen
   # ACCESS: PIV
   # CODE:  Full Code
   # CONTACT: [**First Name4 (NamePattern1) 160**] [**Known lastname 1872**] [**Telephone/Fax (1) 12380**]
   ICU Care
   Nutrition: regular diet
   Comments: renal diet, heart healthy
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2113-1-1**] 08:48 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Call out to floor